US04985582
Diethyl cyclohexylmalonate (18.7 g.) was added to a stirred suspension of sodium hydride (4.8 g. 50% dispersion in oil) in dry tetrahydrofuran (50 ml) under nitrogen. The mixture was refluxed, with stirring, for one hour. The mixture was cooled and benzyl chloromethyl ether (13.9 g.) in dry tetrahydrafuran (50 ml) was added and the mixture was refluxed, with stirring, for three hours. The mixture was cooled and poured into water. The aqueous mixture was extracted with ether. The ether extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo. Diethyl 2-benzyloxymethyl-2-cyclohexyl-malonate (30 g.) was obtained as a brown oil and was used without further purification.

reactant | Diethyl cyclohexylmalonate | 18.7 g | C1(CCCCC1)C(C(=O)OCC)C(=O)OCC | C13H22O4
reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | benzyl chloromethyl ether | 13.9 g | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Diethyl 2-benzyloxymethyl-2-cyclohexyl-malonate | 30 g | C(C1=CC=CC=C1)OCC(C(=O)OCC)(C(=O)OCC)C1CCCCC1 | C21H30O5
